US04661622
To a mixture of 2.1 mol (306.6 g) of adipic acid, 0.7 mol (63 g) of 1,3-butanediol and 2.1 mol (214.2 g) of n-hexanol, were added 0.8 g of titanium tetrabutoxide, 0.2 g of stannic octylate and 80 g of toluene, and dehydrating esterification was carried out. When 37.8 ml of water was distilled out, 143 g of n-hexanol was added. An ester mixture was prepared such that the theoretical amount is 1.4 mol of diester to 0.7 mol of the ester alcohol. After acid value became 0.28, was added 0.5 g of butyl titanate, and at a reaction temperature of 180° C. under atmospheric or subatmospheric pressure, ester-interchange reaction was carried out and 71.4 g (93%) of n-hexanol was recovered. After treatment for removing catalyst, alkali washing and water washing were carried out and distillation was carried out under reduced pressure to provide 263 g (119%) of dihexyl adipate, 19.8 g of intermediate fraction and 252 g of residual portion. The viscosity of a higher boiling portion was 99 c.p.s. at 21° C. The plasticizing efficiency to polyvinyl chloride was 48 and heat loss of 50 phr sheet after heating at 160° C. for 2 hours was 0.6% by weight. A 150 g of remaining liquid was subjected to fractional distillation (240°-265° C./0.5 mm) and 138 g (92%) of 1,3-butanediol bis-n-hexyl adipate was obtained. It was revealed that the major part of the product is the bis-compound. The viscosity of bis compound at 21° C. was 90 c.p.s. and plasticizing efficiency was 47.

reactant | adipic acid | 2.1 mol, 306.6 g | C(CCCCC(=O)O)(=O)O | C6H10O4
reactant | 1,3-butanediol | 0.7 mol, 63 g | C(CC(C)O)O | C4H10O2
reactant | n-hexanol | 2.1 mol, 214.2 g | C(CCCCC)O | C6H14O
reactant | toluene | 80 g | C1(=CC=CC=C1)C | C7H8
catalyst | titanium tetrabutoxide | 0.8 g | [O-]CCCC.[O-]CCCC.[O-]CCCC.[O-]CCCC.[Ti+4]
catalyst | butyl titanate | 0.5 g | CCCC[O-].CCCC[O-].CCCC[O-].CCCC[O-].[Ti+4]
product | dihexyl adipate | 263 g, 119% | C(CCCCC(=O)OCCCCCC)(=O)OCCCCCC | C18H34O4
